* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4522-1 1 2 3 4 5
C1 Clamp MID {Cfp1}
B1 MID Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,MID), {Isink}-V(SB,MID)*350,1m),{Isrc},1m)
G2 0 Vcc_Int N050 0 1
G3 0 Vee_Int N055 0 1
R6 Vcc_Int 0 1 Noiseless
R7 Vee_Int 0 1 Noiseless
R8 N048 Vcc_Int 1Meg Noiseless
R9 N048 Vee_Int 1Meg Noiseless
C2 N048 0 1
R25 Aol2 MID 1Meg Noiseless
G7 MID Aol2 Clamp MID 1µ
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N005 N022 {Rser} Noiseless
R82 N055 4 1µ Noiseless
R47 N050 3 1µ Noiseless
R38 Aol1 MID 1Meg Noiseless
R78 Clamp MID 1Meg Noiseless
Iq N050 N055 {Iq_on}
R45 Vimon MID 1k Noiseless
C34 MID 0 1n
C38 Aol2 MID {Cfp2}
Rx VO N019 {Rx_Zo} Noiseless
Rdummy VO MID {Rdummy_Zo} Noiseless
G4 MID N003 N028 VO {G1_Zo}
R4 N003 MID 1 Noiseless
R5 N003 N004 {R1a_Zo} Noiseless
R13 N004 MID {R2a_Zo} Noiseless
G8 MID N006 N004 MID {G2_Zo}
C3 N004 N003 {C1a_Zo}
R22 N006 N007 {R2b_Zo} Noiseless
R23 N007 N024 {R1b_Zo} Noiseless
C4 MID N024 {C1b_Zo}
R24 N010 ZoF {R1d_Zo} Noiseless
R26 ZoF MID {R2d_Zo} Noiseless
C5 ZoF N010 {C1d_Zo}
R27 N006 MID 1 Noiseless
Gb1 MID N008 N007 MID 1
R28 N008 MID 1 Noiseless
R29 N010 MID 1 Noiseless
R30 N008 N009 {R1d_Zo} Noiseless
R31 N009 MID {R2d_Zo} Noiseless
C18 N009 N008 {C1d_Zo}
Gb2 MID N010 N009 MID {G4_Zo}
R32 N019 MID 1 Noiseless
R34 N015 N016 {R1b_Aol} Noiseless
R35 N016 MID {R2b_Aol} Noiseless
G1 MID N017 N016 MID {G2_Aol}
C24 N016 N015 {C1b_Aol}
R36 N015 MID 1 Noiseless
R39 N017 MID 1 Noiseless
R40 N017 N018 {R1b_Aol} Noiseless
R41 N018 MID {R2b_Aol} Noiseless
G9 MID N025 N018 MID {G2_Aol}
C28 N018 N017 {C1b_Aol}
R42 N025 MID 1 Noiseless
G10 MID N015 Aol2 MID 1
R43 N026 MID 1Meg Noiseless
G11 MID N026 N025 MID 1µ
C29 N026 MID {Cfp3}
R46 N027 MID 1Meg Noiseless
G12 MID N027 N026 MID 1µ
C30 N027 MID {Cfp4}
R48 N028 MID 1Meg Noiseless
G13 MID N028 N027 MID 1µ
C31 N028 MID {Cfp4}
G18 N023 Inp1 N040 N039 1m
R51 Inp1 N023 1k Noiseless
C32 N037 N038 {C1a_PSRp}
G19 MID N038 VCC_Int MID {G1_PSRp}
R52 N038 MID 1 Noiseless
R55 N037 N038 {R1a_PSRp} Noiseless
R56 N037 MID {R2a_PSRp} Noiseless
C33 N030 N029 {C1a_PSRn}
G20 MID N029 VEE_Int MID {G1_PSRn}
R57 N029 MID 1 Noiseless
R58 N030 N029 {R1a_PSRn} Noiseless
R59 N030 MID {R2a_PSRn} Noiseless
C35 N032 N031 {C1b_PSRn}
R60 N031 MID 1 Noiseless
R61 N032 N031 {R1b_PSRn} Noiseless
R63 N032 MID {R2b_PSRn} Noiseless
G21 MID N033 N032 MID {G2_PSRn}
R64 N039 MID 1 Noiseless
G23 MID N031 N030 MID 1
C36 N034 N033 {C1c_PSRn}
R65 N033 MID 1 Noiseless
R66 N034 N033 {R1c_PSRn} Noiseless
R67 N034 MID {R2c_PSRn} Noiseless
G24 MID N039 N034 MID {G3_PSRn}
R68 N036 N035 {R1b_PSRp} Noiseless
R69 N035 MID {R2b_PSRp} Noiseless
G26 MID N040 N035 MID {G2_PSRp}
C37 N035 N036 {C1b_PSRp}
G27 MID N036 N037 MID 1
R70 N036 MID 1 Noiseless
R71 N040 MID 1 Noiseless
A3 MID N053 MID MID MID MID E_n MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 10.1, 6.5n, 109k, 6.5n, 126k, 7n, 170k, 7.9n, 220k, 8.71n, 224k, 8.71n, 275k, 9.4n, 402k, 11n, 627k, 13.4n, 755k, 14.6n, 916k, 14.9n, 1.16Meg, 13.1n, 1.37Meg, 11.3n, 1.65Meg, 9.86n, 1.95Meg, 9.77n, 2.18Meg, 10.9n, 2.7Meg, 13.2n, 3.27Meg, 16.7n, 4.07Meg, 19.9n, 4.21Meg, 31.1n, 4.55Meg, 22.6n, 5.13Meg, 24.6n, 6.03Meg, 25.9n, 9.27Meg, 27.6n, 12.5Meg, 26.8n, 16.9Meg, 22.7n, 20.2Meg, 16.2n, 25Meg, 6.8n, 30.5Meg, 2.2n, 33.7Meg, 1.34n, 46.8Meg, 4n, 56.4Meg, 6.2n, 59.8Meg, 6.8n, 85.3Meg, 12.7n, 106Meg, 19.0n)
R73 E_n MID 100k Noiseless
R74 N056 MID 100k Noiseless
R75 N057 MID 100k Noiseless
G29 MID I_np N056 MID 1
RI_np1 I_np MID 1 Noiseless
G31 MID I_nn N057 MID 1
RI_nn1 I_nn MID 1 Noiseless
A4 MID MID MID MID MID MID N057 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 0.1, 780f, 10, 720f, 1k, 780f, 1.98k, 850f, 2.96k, 955f, 3.7k, 1.08p, 4.47k, 1.42p, 5.49k, 1.1p, 6.51k, 970f, 9.93k, 814f, 13.2k, 672f, 16.5k, 577f, 20k, 415f, 23.3k, 296f, 25.3k, 182f)
A5 MID MID MID MID MID MID N056 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 0.1, 780f, 10, 720f, 1k, 780f, 1.98k, 850f, 2.96k, 955f, 3.7k, 1.08p, 4.47k, 1.42p, 5.49k, 1.1p, 6.51k, 970f, 9.93k, 814f, 13.2k, 672f, 16.5k, 577f, 20k, 415f, 23.3k, 296f, 25.3k, 182f)
R76 N011 N014 1k Noiseless
B17 N014 N011 I=1m*{Vos+Drift* (Temp-25)}
G32 N012 N013 N002 MID 1m
R77 N013 N012 1k Noiseless
R79 N012 N011 1k Noiseless
G33 N011 N012 E_n MID 1m
C39 N002 N001 {C1a_CMR}
G34 MID N001 N005 MID {G1_CMR}
R80 N002 N001 {R1a_CMR} Noiseless
R81 N002 MID {R2a_CMR} Noiseless
R83 N001 MID 1 Noiseless
G35 MID IVR N005 MID 1m
G36 MID Inn1 N044 MID 1k
R84 MID IVR 1k Noiseless
R85 MID Inn1 1m Noiseless
C40 Inn1 MID 1.59n
C41 IVR MID 1.59f
Ibp N005 MID {Ib}
Ibn N044 MID {Ib-Ios}
R2 N044 N043 {Rser} Noiseless
Cinp MID N005 {Ccm}
Cinn N044 MID {Ccm}
Rinn N044 MID {Rcm} Noiseless
Rinp MID N005 {Rcm} Noiseless
A6 In_diff MID MID MID MID SB MID MID SCHMITT Vt=-14.9 Vh=100m Trise=15n
R86 SB MID 1G Noiseless
G39 MID In_diff 1 2 1m
R87 In_diff MID 1k Noiseless
G28 MID N023 N013 MID 1k
R72 MID N023 1m Noiseless
C42 N023 MID 1.59n
C43 Aol1 MID 1.59e-18
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
C10 Vimon MID 1.59f
S4 3 N014 N014 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N014 4 4 N014 ESDI
S7 Inn1 4 4 Inn1 ESDI
Cdiff N005 N044 {Cdiff}
C45 SB MID 1p
C46 N022 MID 10f
C47 N043 MID 10f
E1 MID 0 N048 0 1
R10 MID 0 1Meg Noiseless
BZo MID N019 I=Uplim(Dnlim(V(ZoF,MID)*{G4_Zo}, {Izon}, 25m),{Izop}, 25m)
C8 I_np MID 1.59p
C26 I_nn MID 1.59p
C51 N039 MID 1.59p
C52 N040 MID 1.59p
R16 N022 1 1m Noiseless
R17 N043 2 1m Noiseless
B3 MID CMpi I=1m*(V(3,MID)+{Vcm_max}) Cpar=1n
G17 MID CMp CMpi MID 1k
R53 MID CMp 1m Noiseless
B8 MID CMni I=1m*(V(4,MID)+{Vcm_min}) Cpar=1n
G22 MID CMn CMni MID 1k
R54 MID CMn 1m Noiseless
R62 CMpi MID 1k Noiseless
R88 CMni MID 1k Noiseless
DIP CMp IVR DI
DIN IVR CMn DI
C54 IVR CMn 1f
C48 IVR CMp 1f
G14 MID N014 IVR MID 1k
R14 MID N014 1m Noiseless
C49 N014 MID 1.59n
C25 2 MID 1f
Rdiff N005 N044 {Rdiff} Noiseless
A8 MID MID MID MID MID MID N053 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R90 N053 MID 100k Noiseless
C50 E_n MID 159f
G25 MID Aol1 Inp1 Inn1 100µ
Rs 5 VO 1m
B2 MID Vimon I=1m*I(Rs)
G6 N005 MID I_np MID 1
G15 N044 MID I_nn MID 1
G16 MID N045 ORp MID 1k
G30 MID N047 ORn MID 1k
DGP N045 N046 DG
R3 N045 MID 1m
R11 N047 MID 1m
I1 N052 ORn {1m*ORn}
R12 ORn N052 1k
I2 N051 ORp {1m*ORp}
R15 ORp N051 1k
C6 ORp N051 1p
C7 ORn N052 1p
DGN N046 N047 DG
Rgr Clamp N046 1m
G37 MID N051 VO MID 1k
R18 N051 MID 1m
G38 MID N052 VO MID 1k
R19 N052 MID 1m
SZO N003 N004 OL 0 ZO
B4 0 Igr I=1m*abs(I(Rgr)) Rpar=1k Cpar=10p
A1 Igr 0 0 0 0 0 OL 0 SCHMITT Vt=50u Vh=50u Trise=10n
C9 OL 0 1p Rpar=1G
C11 Vsatp2 Vcc_Int 1n
B5 Vsatp1 Vcc_Int I=1m*Dnlim(Mp*(V(Vimon,MID))+OSp, 40u, 1m)
C12 Vsatp1 Vcc_Int 1n
B6 Vsatp2 Vcc_Int I=1m*Dnlim((V(Vimon,MID)/(Ap+Bp*(V(Vimon,MID)**Gp))), 40u, 1m)
R21 Vsatp1 Vcc_Int 1k Noiseless
R33 Vsatp2 Vcc_Int 1k Noiseless
R37 Satp MID 1k Noiseless
C13 Satp MID 1p
B7 MID Satp I=1m*Uplim(V(Vsatp1,MID), V(Vsatp2,MID),1m)
B9 Vee_Int N041 I=1m*Dnlim(Mn*(-V(Vimon,MID))+OSn,40u,1m)
C16 N041 Vee_Int 1n
R44 N041 Vee_Int 1k Noiseless
DOP Vsatp VO DO
DON VO Vsatn DO
G40 MID Vsatp Satp MID 1k
R49 Vsatp MID 1m
G41 MID Vsatn N041 MID 1k
R50 Vsatn MID 1m
C19 VO Vsatp 1p
C20 VO Vsatn 1p
C21 Vsatp MID 1n
C22 Vsatn MID 1n
Bsrc N050 0 I=Dnlim(I(Rs), 0,1u)
Bsink N055 0 I=Uplim(I(Rs), 0,1u)
.param Vos=714n Drift=4n
.param Ib=83.90p Ios=147.79p
.param Vcm_min=0 Vcm_max=-1.5
.param Vsmin=4.5 Vsmax=55
.param Iscp=21m Iscn=-33m
.param Iq_on=840u Iq_off=1u
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param ORp={Izop+Vsmax} ORn={Izon-Vsmax}
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd={-2*ORn} Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u)
.model ESDI SW(Ron=50 Roff=1T Vt=300m Vh=-150m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model ZO SW(Ron=10m Roff=100Meg Vt=500m Vh=-100m Noiseless)
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=1k
.param Zo_max={Zo_dc}
.param R1a_Zo=1Meg
.param fz1_Zo=75m
.param fp1_Zo=45
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1d_Zo=10k
.param fz4_Zo=26Meg
.param fp4_Zo=100G
.param C1d_Zo = {1 / (2 * pi * R1d_Zo * fz4_Zo)}
.param R2d_Zo = {R1d_Zo/ ((2 * pi * fp4_Zo * C1d_Zo
+* R1d_Zo) - 1)}
.param actual4_Zo = {R2d_Zo / (R1d_Zo + R2d_Zo)}
.param G4_Zo = {1/actual4_Zo}
.param R1b_Zo=100k
.param fp2_Zo=150k
.param fz2_Zo= 26Meg
.param C1b_Zo = {1 / (fz2_Zo * R1b_Zo * 2 * pi)}
.param R2b_Zo = {(1 / (fp2_Zo * C1b_Zo * 2 * pi))
+- R1b_Zo}
.param Aol_PB=151
.param SRp=1.8 SRn=-0.86
.param fp1=75m fp2=3.5Meg fp3=4.95Meg fp4=120Meg
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param C1b_Aol = {1 / (2 * pi * R1b_Aol * fz2_Aol)}
.param R2b_Aol = {R1b_Aol/ ((2 * pi * fp2_Aol * C1b_Aol
+* R1b_Aol) - 1)}
.param actual2_Aol = {R2b_Aol / (R1b_Aol + R2b_Aol)}
.param G2_Aol={1/actual2_Aol}
.param R1b_Aol=10k
.param fz2_Aol=4Meg
.param fp2_Aol=25Meg
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param C1c_PSRn = {1 / (2 * pi * R1c_PSRn * fz3_PSRn)}
.param R2c_PSRn = {R1c_PSRn/ ((2 * pi * fp3_PSRn * C1c_PSRn
+* R1c_PSRn) - 1)}
.param actual3_PSRn = {R2c_PSRn/ (R1c_PSRn + R2c_PSRn)}
.param G3_PSRn = {1/actual3_PSRn}
.param Rej_dc_PSRn=159.3
.param R1a_PSRn=100Meg
.param fz1_PSRn=40m
.param fp1_PSRn=1k
.param R1b_PSRn=1Meg
.param fz2_PSRn=1.5k
.param fp2_PSRn=70k
.param R1c_PSRn=1Meg
.param fz3_PSRn=160k
.param fp3_PSRn=13Meg
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=161
.param R1a_PSRp=1Meg
.param fz1_PSRp=900
.param fp1_PSRp=45Meg
.param C1b_PSRp={1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp= {1/actual2_PSRp}
.param R1b_PSRp=1Meg
.param fz2_PSRp={fz1_PSRp}
.param fp2_PSRp=1.8Meg
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=158.5
.param R1a_CMR=1Meg
.param fz1_CMR=2
.param fp1_CMR=350k
.param Rser=200
.param Ccm=35p Rcm=400G
.param Cdiff=7p Rdiff=30k
.param BB=6.8n fC=80m M=0.62 fA={BB*(fC**M)}
.param Mp=57.8 OSp=5.5m
.param Ap=15m Bp=-41.4k Gp=4.5
.param Mn=69.7 OSn=5.5m
.ends ADA4522-1
